US04092311
A 19.20 g. portion of 6-(p-bromophenyl)-3(2H)-pyridazinone is mixed with 9.10 g. of cuprous cyanide in 70 ml. of dimethylformamide and stirred at reflux temperature for 12 hours. The hot mixture is poured into a solution of 46 ml. of ethylenediamine in 230 ml. of water. The mixture is stirred at ice-bath temperature for 30 minutes and the solid is separated by filtration. A second crop forms in the filtrate which is collected and added to the first crop which is then washed with water yielding 6-(p-cyanophenyl)-3(2H)-pyridazinone.

reactant | 6-(p-bromophenyl)-3(2H)-pyridazinone | BrC1=CC=C(C=C1)C=1C=CC(NN1)=O | C10H7BrN2O
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | ethylenediamine | C(CN)N | C2H8N2
solvent | water | O | H2O
product | 6-(p-cyanophenyl)-3(2H)-pyridazinone | C(#N)C1=CC=C(C=C1)C=1C=CC(NN1)=O | C11H7N3O
